US08304444B2
N-[1-(2,4-dichloro-phenyl)-2-nitro-propyl]-O-methyl-hydroxylamine (0.123 g, 0.44 mmol), was dissolved with i-PrOH (9 ml) and treated with 1N HCl (4.4 ml, 4.4 mmol). Zinc dust (0.58 g, 8.8 mmol) was then added in small portions over 15 minutes and the solution allowed to stir for two hours at ambient temperature. The suspension was quenched by addition of saturated NaHCO3 (15 ml), stirred for 15 minutes and filtered through a small plug of Celite, washing with ethylacetate (40 ml). The organic extract was separated, dried over anhydrous MgSO4 an filtered and the solvent was removed under reduced pressure. 110 mg (100% of theory) of N-[2-Amino-1-(2,4-dichloro-phenyl)-propyl]-O-methyl-hydroxylamine (compound Z1.14) was obtained in the form of a colourless oil as a mixture of diastereomeres.

reactant | N-[1-(2,4-dichloro-phenyl)-2-nitro-propyl]-O-methyl-hydroxylamine | 0.44 mmol, 0.123 g | ClC1=C(C=CC(=C1)Cl)C(C(C)[N+](=O)[O-])NOC | C10H12Cl2N2O3
reactant | HCl | 4.4 mmol, 1N, 4.4 ml | Cl | ClH
catalyst | Zinc | 8.8 mmol, 0.58 g | [Zn] | Zn
solvent | i-PrOH | 9 ml | CC(C)O | C3H8O
product | N-[2-Amino-1-(2,4-dichloro-phenyl)-propyl]-O-methyl-hydroxylamine | 110 mg, 100% | NC(C(C1=C(C=C(C=C1)Cl)Cl)NOC)C | C10H14Cl2N2O
